US04731382
Preparation of 9-Phenylnonanohydroxamic Acid
Into a 100 ml, 3 neck flask equipped with thermometer, drying tube, stirrer and dropping funnel is placed phenylnonanoic acid (10 gms, 0.0426 mole) and methylene chloride (20 ml). The resulting stirred mixture is cooled to 5° and thionyl chloride (6.2 gms, 0.052 mole) is added dropwise during 5 minutes, then stirred at room temperature for 18 hours. The methylene chloride and excess thionyl chloride are removed in vacuo to an oil, 10.8 gms (100%). This is diluted with methylene chloride (15 ml) and then added to a stirred mixture of hydroxylamine hydrochloride (3.6 gms, 0.052 mole), anhydrous sodium carbonate (5 gms, 0.052 mole) and methylene chloride (60 ml). During the addition, the temperature of the reaction is maintained between 5°-10° by regulating the addition. After stirring this mixture for 1/2 hour, water (6 ml) is added dropwise during 5 minutes, then the mixture is stirred at room temperature for 18 hours. The reaction mixture is diluted with methylene chloride (60 ml) and water (30 ml). The organic layer is separated and washed with water (2×30 ml), brine (2×30 ml), and dried over magnesium sulfate, then filtered and concentrated in vacuo to a solid residue. One recrystallization from methylene chloride (100 ml) gives 6.7 gms (63%) of pure title product, m.p. 75°-7°.

reactant | phenylnonanoic acid | 0.0426 mole, 10 gms | C1(=CC=CC=C1)C(C(=O)O)CCCCCCC | C15H22O2
reactant | thionyl chloride | 0.052 mole, 6.2 gms | S(=O)(Cl)Cl | Cl2OS
reactant | hydroxylamine hydrochloride | 0.052 mole, 3.6 gms | Cl.NO
reactant | sodium carbonate | 0.052 mole, 5 gms | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
solvent | water | 6 ml | O | H2O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 9-Phenylnonanohydroxamic Acid | 6.7 gms, 63% | C1(=CC=CC=C1)CCCCCCCCC(=O)NO | C15H23NO2
